### PR TITLE
[Merged by Bors] - feat(RingTheory/DedekindDomain/Ideal): add two lemmas about the multiplicity of normalized factors

### PR DESCRIPTION
**Pull request by faenuccio**
Add two lemmas on the multiplicity of normalized factors in relation to principal ideals and the cardinality of associates.

Co-authored-by: María Inés de Frutos-Fernández @mariainesdff 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 1]
```diff
@@ -1538,4 +1538,40 @@ theorem multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multipl
     multiplicity_normalizedFactorsEquivSpanNormalizedFactors_eq_multiplicity hr ha]
 #align multiplicity_normalized_factors_equiv_span_normalized_factors_symm_eq_multiplicity multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multiplicity
 
+theorem count_normalizedFactors_eq_count_normalizedFactors_span {R : Type _} [CommRing R]
+    [IsDomain R] [IsPrincipalIdealRing R] [NormalizationMonoid R] [DecidableEq R]
+    [DecidableEq (Ideal R)] {r X : R} (hr : r ≠ 0) (hX₀ : X ≠ 0) (hX₁ : normUnit X = 1)
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:1543]: Could you drop `hX₁` by inserting a `normalize` call in the right place in the conclusion, and perhaps derive this theorem from it?

File: .vscode/settings.json [hunk 2]
```diff
@@ -2,7 +2,7 @@
   "editor.insertSpaces": true,
   "editor.tabSize": 2,
   "editor.rulers" : [100],
-  "editor.acceptSuggestionOnEnter": "off",
+  "editor.acceptSuggestionOnEnter": "on",
```
Comment (xroblot) [inline .vscode/settings.json:5]: Are you sure you want to change this file?

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 3]
```diff
@@ -1538,4 +1539,40 @@ theorem multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multipl
     multiplicity_normalizedFactorsEquivSpanNormalizedFactors_eq_multiplicity hr ha]
 #align multiplicity_normalized_factors_equiv_span_normalized_factors_symm_eq_multiplicity multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multiplicity
 
+/-- The bijection `normalized_factors_equiv_span_normalized_factors.symm` between the set of prime
```
Comment (xroblot) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:1542]:
```suggestion
/-- The bijection `normalizedFactorsEquivSpanNormalizedFactors.symm` between the set of prime
```

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 4]
```diff
@@ -1538,4 +1539,40 @@ theorem multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multipl
...
+      dsimp only [Set.mem_setOf_eq, Set.coe_setOf, normalizedFactorsEquivSpanNormalizedFactors,
+        Equiv.ofBijective_apply]
+      simpa only [prime_span_singleton_iff]
+    · simp only [Submodule.zero_eq_bot, ne_eq, span_singleton_eq_bot, hr, not_false_eq_true]
+
+open Classical in
+/-- The number of times an ideal `I` occurs as normalized factor of another ideal `J` is stable
+  when regarding at these ideals as associated elements of the monoid of ideals.-/
+theorem count_normalizedFactors_eq_associates_count
+    (R : Type*) [CommRing R] [IsDomain R] [IsPrincipalIdealRing R]--cannot comment this!
```
Comment (xroblot) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:1565]: What do you mean by: `--cannot comment this!`

Comment (xroblot) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:1565]: Well, I know what you mean but I don't know why you felt necessary to add this comment

File: .vscode/settings.json (hunk 2 above)
Comment (faenuccio) [reply .vscode/settings.json:5]: Surely not... 😄

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean (hunk 4 above)
Comment (mattrobball) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:1565]: I don't know what you mean. Are you thinking Lean should find the `DecidableEq` on `Associates` automatically from the existing context?

Comment (faenuccio) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:1565]: Because all these variables are in scope, so I would expect that it is not necessary to call them again. In the previous theorem none of them was needed. Is it because of the `open Classical`?

Comment (mattrobball) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:1565]: Why not add the requisite decidability instance to `Ideal.count_normalizedFactors_eq` and then to here?

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 5]
```diff
@@ -1538,4 +1539,40 @@ theorem multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multipl
...
```
[the remark this answers is not in the document]
Comment (faenuccio) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:1565]: Very nice, thanks!

**Review by mattrobball — APPROVED** [review]
Great!

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 6]
```diff
@@ -1247,10 +1247,10 @@ theorem Ideal.IsPrime.mem_pow_mul (I : Ideal R) [hI : I.IsPrime] {a b : R} {n :
 
 section
 
-open scoped Classical
+-- open scoped Classical
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:1250]: This should be erased (similarly below).

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 7]
```diff
@@ -1538,4 +1539,41 @@ theorem multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multipl
     multiplicity_normalizedFactorsEquivSpanNormalizedFactors_eq_multiplicity hr ha]
 #align multiplicity_normalized_factors_equiv_span_normalized_factors_symm_eq_multiplicity multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multiplicity
 
+/-- The bijection `normalizedFactorsEquivSpanNormalizedFactors.symm` between the set of prime
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:1542]: `normalizedFactorsEquivSpanNormalizedFactors.symm` does not appear in the statement of the theorem...

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 8]
```diff
@@ -1538,4 +1539,41 @@ theorem multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multipl
...
+    rw [multiplicity_eq_count_normalizedFactors
+    (Prime.irreducible hX) hr,
+        multiplicity_eq_count_normalizedFactors] at this
+    · simp_all only [ne_eq, normalize_apply, normUnit_eq_one, Units.val_one, one_eq_top, mul_top,
+      mul_one, Nat.cast_inj]
+    · apply Prime.irreducible
+      dsimp only [Set.mem_setOf_eq, Set.coe_setOf, normalizedFactorsEquivSpanNormalizedFactors,
+        Equiv.ofBijective_apply]
+      simpa only [prime_span_singleton_iff]
+    · simp only [Submodule.zero_eq_bot, ne_eq, span_singleton_eq_bot, hr, not_false_eq_true]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:1560]: The proof should be indented two spaces to start with, not four

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 9]
```diff
@@ -1538,4 +1539,41 @@ theorem multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multipl
...
 #align multiplicity_normalized_factors_equiv_span_normalized_factors_symm_eq_multiplicity multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multiplicity
 
+/-- The bijection `normalizedFactorsEquivSpanNormalizedFactors.symm` between the set of prime
+    factors of the ideal `⟨r⟩` and the set of prime factors of `r` preserves `count` of the
+    corresponding multisets. See
+    `multiplicity_normalizedFactorsEquivSpanNormalizedFactors_eq_multiplicity` for the version
+    stated in terms of multiplicity. -/
+theorem count_normalizedFactorsSpan_eq_count {r X : R} (hr : r ≠ 0) (hX₁ : normUnit X = 1)
+    (hX : Prime X) : Multiset.count X (normalizedFactors r) =
+      Multiset.count (Ideal.span {X} : Ideal R) (normalizedFactors (Ideal.span {r})) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:1549]: You could make this
```suggestion
theorem count_normalizedFactorsSpan_eq_count' {r X : R} (hr : r ≠ 0) (hX : Prime X) :
    Multiset.count (normalize X) (normalizedFactors r) =
      Multiset.count (Ideal.span {X} : Ideal R) (normalizedFactors (Ideal.span {r})) := by
```
and then prove your original theorem with
```
  simpa [hX₁] using count_normalizedFactorsSpan_eq_count' hr hX
```

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean (hunk 8 above)
Comment (faenuccio) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:1560]: It is indented with two spaces, no?

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean (hunk 9 above)
Comment (faenuccio) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:1549]: Done, thanks!

**Comment by faenuccio** [comment]
@mattrobball @Ruben-VandeVelde Are there more additions you would like to suggest or do you think this is ready to go?

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 10]
```diff
@@ -839,8 +839,6 @@ and the lcm is their infimum, and use this to instantiate `NormalizedGCDMonoid (
 
 @[simp]
 theorem sup_mul_inf (I J : Ideal A) : (I ⊔ J) * (I ⊓ J) = I * J := by
-  letI := Classical.decEq (Ideal A)
-  letI := Classical.decEq (Associates (Ideal A))
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:843]: Why this change?

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 11]
```diff
@@ -1536,4 +1533,41 @@ theorem multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multipl
     multiplicity_normalizedFactorsEquivSpanNormalizedFactors_eq_multiplicity hr ha]
 #align multiplicity_normalized_factors_equiv_span_normalized_factors_symm_eq_multiplicity multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multiplicity
 
+/-- The bijection between the set of prime factors of the ideal `⟨r⟩` and the set of prime factors
+  of `r` preserves `count` of the corresponding multisets. See
+  `multiplicity_normalizedFactorsEquivSpanNormalizedFactors_eq_multiplicity` for the version
+  stated in terms of multiplicity. -/
+theorem count_normalizedFactorsSpan_eq_count {r X : R} (hr : r ≠ 0) (hX : Prime X) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:1540]: On second look, I don't think `normalizedFactorsSpan` makes sense as a name segment, so should be `normalizedFactors_span` in both cases.

Also, I think the name would make more sense if the conclusion was stated in the opposite direction.

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 12]
```diff
@@ -1536,4 +1533,41 @@ theorem multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multipl
...
+
+theorem count_normalizedFactorsSpan_eq_count' {r X : R} (hr : r ≠ 0) (hX₁ : normUnit X = 1)
+    (hX : Prime X) : Multiset.count X (normalizedFactors r) =
+      Multiset.count (Ideal.span {X} : Ideal R) (normalizedFactors (Ideal.span {r})) := by
+  simpa [hX₁] using count_normalizedFactorsSpan_eq_count hr hX
+
+/-- The number of times an ideal `I` occurs as normalized factor of another ideal `J` is stable
+  when regarding at these ideals as associated elements of the monoid of ideals.-/
+theorem count_normalizedFactors_eq_associates_count [DecidableEq <| Associates (Ideal R)]
+    [∀ (p : Associates <| Ideal R) , Decidable (Irreducible p)]
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:1560]:
```suggestion
    [∀ (p : Associates <| Ideal R), Decidable (Irreducible p)]
```

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean (hunk 10 above)
Comment (faenuccio) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:843]: Because these variables have now been added globally and are no longer needed.

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean (hunk 11 above)
Comment (faenuccio) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:1540]: OK, I will change them to `normalizedFactors_span`, but concerning the "opposite direction", are you suggesting that the first (rsp. the second) theorem becomes `count_eq_normalizedFactorsSpan` and similarly with `'` ?

Comment (Ruben-VandeVelde) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:1540]: In this direction I guess I'd go for `count_normalizedFactors_eq_count_normalizedFactors_span` which isn't so great - but I do think you want to include `span`. `count_normalizedFactors_span_eq_count` would work if you changed the conclusion. That might be a good idea anyway - the LHS right now seems simpler than the RHS.

Comment (rosborn) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:1540]: I agree with Ruben. Flipping the equality and naming the lemmas `count_span_normalizedFactors_eq`, `count_span_normalizedFactors_eq_of_normUnit` and `count_associates_factors_eq`.

Comment (faenuccio) [reply Mathlib/RingTheory/DedekindDomain/Ideal.lean:1540]: Thanks, done!

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 13]
```diff
@@ -1536,4 +1533,41 @@ theorem multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multipl
...
+theorem count_span_normalizedFactors_eq {r X : R} (hr : r ≠ 0) (hX : Prime X) :
+    Multiset.count (Ideal.span {X} : Ideal R) (normalizedFactors (Ideal.span {r}))  =
+        Multiset.count (normalize X) (normalizedFactors r) := by
+  have := multiplicity_eq_multiplicity_span (R := R) (a := X) (b := r)
+  rw [multiplicity_eq_count_normalizedFactors (Prime.irreducible hX) hr,
+    multiplicity_eq_count_normalizedFactors (Prime.irreducible ?_), normalize_apply,
+    normUnit_eq_one, Units.val_one, one_eq_top, mul_top, Nat.cast_inj] at this
+  simp only [normalize_apply, this]
+  · simp only [Submodule.zero_eq_bot, ne_eq, span_singleton_eq_bot, hr, not_false_eq_true]
+  · simpa only [prime_span_singleton_iff]
```
Comment (rosborn) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:1549]:
```suggestion
  have hIrred : Irreducible (span {X}) := Prime.irreducible <| prime_span_singleton_iff.mpr hX
  have hneq0 : span {r} ≠ 0 := by simp only [Submodule.zero_eq_bot, ne_eq, span_singleton_eq_bot,
    hr, not_false_eq_true]
  have := multiplicity_eq_multiplicity_span (R := R) (a := X) (b := r)
  rw [multiplicity_eq_count_normalizedFactors (Prime.irreducible hX) hr,
    multiplicity_eq_count_normalizedFactors hIrred hneq0, normalize_apply,
    normUnit_eq_one, Units.val_one, one_eq_top, mul_top, Nat.cast_inj] at this
  simp only [normalize_apply, this]
```
I feel it's confusing when `rw` introduces extra goals. Adding some `have`s beforehand hopefully makes it clearer. Also `r ≠ 0 → span {r} ≠ 0` should perhaps be a lemma in mathlib?

File: Mathlib/RingTheory/DedekindDomain/Ideal.lean [hunk 14]
```diff
@@ -1536,4 +1533,41 @@ theorem multiplicity_normalizedFactorsEquivSpanNormalizedFactors_symm_eq_multipl
...
+
+theorem count_span_normalizedFactors_eq_of_normUnit {r X : R} (hr : r ≠ 0) (hX₁ : normUnit X = 1)
+    (hX : Prime X) :
```
Comment (rosborn) [inline Mathlib/RingTheory/DedekindDomain/Ideal.lean:1552]:
```suggestion
theorem count_span_normalizedFactors_eq_of_normUnit {r X : R}
    (hr : r ≠ 0) (hX₁ : normUnit X = 1) (hX : Prime X) :
```
Very nitpicky, but this is perhaps easier to read at a glance.

**Review by rosborn — APPROVED** [review]
Feel free to ignore my comments as they are just style suggestions. Otherwise, looks good to me.

**Comment by riccardobrasca** [comment]
Taking into account the pending comments LGTM,thanks!

bors +

**Comment by riccardobrasca** [comment]
bors d+

**Comment by faenuccio** [comment]
> Taking into account the pending comments LGTM,thanks!
> 
> bors +

Thanks!
